US08022062B2
To a stirred solution of 1.5M lithium diisopropylamide in cyclohexane (1.37 mL, 2.05 mmol) in dry THF (5 mL) at −78° C. under dry nitrogen, add a solution of 3-tert-butoxycarbonyl-7-chloro-6-cyanomethylthio-2,3,4,5-tetrahydro-1H-benzo[d]-azepine (600 mg, 1.70 mmol) in THF (5 mL) and continue stirring for 2 h. Rapidly transfer the above solution via cannula to a solution of ethyl iodide (13.2 g, 84.9 mmol) in THF (5 mL) and continue stirring for 1 h. Quench with aqueous saturated ammonium chloride solution, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give (±)-3-tert-butoxycarbonyl-7-chloro-6-(1-cyanopropylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a pale oil (350 mg, 68%). Use a method similar to the General Procedure 1-4 to give the title compound as an off-white solid. MS (ES+) m/z: 281 (M+H)+.

reactant | lithium diisopropylamide | 1.5M | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohexane | 2.05 mmol, 1.37 mL | C1CCCCC1 | C6H12
reactant | 3-tert-butoxycarbonyl-7-chloro-6-cyanomethylthio-2,3,4,5-tetrahydro-1H-benzo[d]-azepine | 1.70 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC#N | C17H21ClN2O2S
reactant | ethyl iodide | 84.9 mmol, 13.2 g | C(C)I | C2H5I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-3-tert-butoxycarbonyl-7-chloro-6-(1-cyanopropylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 350 mg, 68% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(CC)C#N | C19H25ClN2O2S
